** sch_path: /foss/designs/comparator/schematic/strongarm_2.sch
.subckt strongarm_2 VDD CK VOUT2 VOUT1 VIN1 VIN2 VSS
*.PININFO VOUT1:O VOUT2:O VIN1:I VIN2:I CK:I VDD:B VSS:B
M1 VOUT2 VOUT1 net1 net1 nfet_03v3 L=0.28u W=0.22u nf=1
M2 VOUT1 VOUT2 VDD VDD pfet_03v3 L=0.28u W=0.22u nf=1
M3 VOUT1 CK VDD VDD pfet_03v3 L=0.28u W=5u nf=1
M4 net3 CK VDD VDD pfet_03v3 L=0.28u W=5u nf=1
M5 net1 CK VDD VDD pfet_03v3 L=0.28u W=5u nf=1
M6 VOUT2 CK VDD VDD pfet_03v3 L=0.28u W=5u nf=1
M7 VOUT2 VOUT1 VDD VDD pfet_03v3 L=0.28u W=0.22u nf=1
M8 net1 VIN2 net2 net2 nfet_03v3 L=1u W=8u nf=1
M9 VOUT1 VOUT2 net3 net3 nfet_03v3 L=0.28u W=0.22u nf=1
M10 net3 VIN1 net2 net2 nfet_03v3 L=1u W=8u nf=1
M11 net2 CK VSS net2 nfet_03v3 L=0.28u W=0.22u nf=1
.ends
