* Extracted by KLayout with GF180MCU LVS runset on : 10/07/2026 21:41

.SUBCKT strongarm VIN1 VIN2 VOUT1 VOUT2 CK VDD VSS
M$1 VDD CK \$3 VDD pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P PS=2.18U
+ PD=2.18U
M$2 VDD CK \$4 VDD pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P PS=2.18U
+ PD=2.18U
M$3 VDD VOUT1 VOUT2 VDD pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P
+ PS=2.18U PD=2.18U
M$4 VDD CK VOUT1 VDD pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P PS=2.18U
+ PD=2.18U
M$5 VDD VOUT2 VOUT1 VDD pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P
+ PS=2.18U PD=2.18U
M$6 VOUT2 CK VDD VDD pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P PS=2.18U
+ PD=2.18U
M$7 \$2 VIN1 \$3 VSS nfet_03v3 L=0.28U W=2U AS=1.22P AD=1.22P PS=5.22U PD=5.22U
M$8 \$2 VIN2 \$4 VSS nfet_03v3 L=0.28U W=2U AS=1.22P AD=1.22P PS=5.22U PD=5.22U
M$9 \$2 CK VSS VSS nfet_03v3 L=0.28U W=2U AS=1.22P AD=1.22P PS=5.22U PD=5.22U
M$10 \$3 VOUT2 VOUT1 VSS nfet_03v3 L=0.28U W=2U AS=1.22P AD=1.22P PS=5.22U
+ PD=5.22U
M$11 VOUT2 VOUT1 \$4 VSS nfet_03v3 L=0.28U W=2U AS=1.22P AD=1.22P PS=5.22U
+ PD=5.22U
.ENDS strongarm
