* Extracted by KLayout with GF180MCU LVS runset on : 10/07/2026 06:36

.SUBCKT strongarm
M$1 VDD VOUT2 VOUT1 VDD pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P
+ PS=2.18U PD=2.18U
M$2 \$17 CK VOUT2 VDD pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P PS=2.18U
+ PD=2.18U
M$3 VDD CK \$15 VDD pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P PS=2.18U
+ PD=2.18U
M$4 VDD CK VOUT2 VOUT2 pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P PS=2.18U
+ PD=2.18U
M$5 VDD VOUT1 VOUT2 VDD pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P
+ PS=2.18U PD=2.18U
M$6 VOUT1 \$19 VDD \$16 pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P
+ PS=2.18U PD=2.18U
M$7 VOUT2 CK VSS VOUT2 nfet_03v3 L=0.28U W=2U AS=1.22P AD=1.22P PS=5.22U
+ PD=5.22U
M$8 \$4 VIN2 VOUT2 VOUT2 nfet_03v3 L=0.28U W=2U AS=1.22P AD=1.22P PS=5.22U
+ PD=5.22U
M$9 VOUT2 VIN1 \$3 VOUT2 nfet_03v3 L=0.28U W=2U AS=1.22P AD=1.22P PS=5.22U
+ PD=5.22U
M$10 VOUT2 VOUT1 \$4 VOUT2 nfet_03v3 L=0.28U W=2U AS=1.22P AD=1.22P PS=5.22U
+ PD=5.22U
M$11 VOUT1 VOUT2 VOUT2 VOUT2 nfet_03v3 L=0.28U W=2U AS=1.22P AD=1.22P PS=5.22U
+ PD=5.22U
M$12 \$12 \$13 \$11 VOUT2 nfet_03v3 L=0.28U W=2U AS=1.22P AD=1.22P PS=5.22U
+ PD=5.22U
.ENDS strongarm
